US05075451
Beta-[[2-[[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl]amino]-4-methyl-1-oxopentyl]amino]-alphahydroxycyclohexanebutanoic acid methyl ester
The title compound was prepared from N-phthalyl-Phe (0.028 g, 95 μmol) and TFA-Leu-3-amino-4-cyclohexyl-2-hydroxy-butanoic acid methyl ester (81.7 μmol) following the procedure of Example 1, second paragraph. Column chromatography (SiO2 gel; 2% MeOH/CHCl3) yielded 0.036 g (73% yield) of pure compound with a diastereomeric ratio of 28:1.

reactant | TFA Leu 3-amino-4-cyclohexyl-2-hydroxy-butanoic acid methyl ester | 81.7 μmol | C(=O)(C(F)(F)F)O.N[C@@H](CC(C)C)C(=O)O.COC(C(C(CC1CCCCC1)N)O)=O
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | Beta-[[2-[[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl]amino]-4-methyl-1-oxopentyl]amino]-alphahydroxycyclohexanebutanoic acid methyl ester | COC(C(C(CC1CCCCC1)NC(C(CC(C)C)NC(C(CC1=CC=CC=C1)N1C(C2=CC=CC=C2C1=O)=O)=O)=O)O)=O | C34H43N3O7
